US08183380B2
4-Isopropyl-piperazine-1-carboxylic acid [2-((R)-indan-1-ylamino)-quinolin-6-yl]-amide
The title compound was prepared in accordance with the general method 4 described in example 16 from bis(trichloromethyl) carbonate (44 mg, 0.16 mmol), commercially available 1-(2-propyl)-piperazine (47 mg, 0.363 mmol) and (R)—N2-indan-1-yl-quinoline-2,6-diamine (100 mg, 0.363 mmol); obtained as a white solid (32 mg, 21%); MS: m/e=430.4 (M+H+).

reactant | bis(trichloromethyl) carbonate | 0.16 mmol, 44 mg | C(OC(Cl)(Cl)Cl)(OC(Cl)(Cl)Cl)=O | C3Cl6O3
reactant | 1-(2-propyl)-piperazine | 0.363 mmol, 47 mg | CC(C)N1CCNCC1 | C7H16N2
reactant | (R)—N2-indan-1-yl-quinoline-2,6-diamine | 0.363 mmol, 100 mg | [C@H]1(CCC2=CC=CC=C12)NC1=NC2=CC=C(C=C2C=C1)N | C18H17N3
product | 4-Isopropyl-piperazine-1-carboxylic acid [2-((R)-indan-1-ylamino)-quinolin-6-yl]-amide | [C@H]1(CCC2=CC=CC=C12)NC1=NC2=CC=C(C=C2C=C1)NC(=O)N1CCN(CC1)C(C)C | C26H31N5O
